Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old female with history of hypertension 
and venous insufficiency s/p radioablation of bilateral GSV 
___ left, ___ right) presenting with 3 days of fever and 
chills. Two days prior to presentation, she had fevers up to 102 
and chills which improved w/ Tylenol and ibuprofen. The patient 
went to ___ clinic, where they were worried about 
cellulitis and
sent her to the ED. She endorses worsening right leg tenderness, 
erythema, and warmth to the touch. The erythema started the day 
prior to presentation and has worsened today. She notes SOB w/ 
the fever, as well as headache and lightheadedness. No nausea, 
vomiting, dysuria, constipation.

In the ED, initial vitals were: T 96.2, HR 80, BP 146/104, RR 
20, SpO2 99% RA 

Exam was notable for:
-R lower leg below the knee erythematous tender warm

Labs were notable for: (use specific numbers)
-WBC: 7.6
-BUN 12, Cr 0.7
-Lactate 1.1

Studies were notable for: 
-Right ___: No DVT within the right lower extremity. Limited 
evaluation of the calf veins. Mild edema in the right calf.

-CXR: Large hiatal hernia, otherwise unremarkable. No signs of 
pneumonia.

The patient was given:
- IV vancomycin 1000mg Q8H, IV ceftriaxone 1g Q24H, po 
hydrochlorothiazide 25mg, po lisinopril 10mg

Consults:
- Vascular surgery: admit to medicine for IV antibiotics, no 
surgical indication at this point

On arrival to the floor, patient states that she feels well. She 
feels that her erythema might have improved somewhat with the 
antibiotics but not significantly. Denies any further fevers. 
Feels well overall. No questions or complaints. 
 
Past Medical History:
- Hypertension
- Chronic venous insufficiency s/p radioablation of bilateral 
GSV ___ left, ___ right)
- Obesity
- Hyperlipidemia
 
Social History:
___
Family History:
Non-contributory to this presentation. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ Temp: 98.6 PO BP: 119/78 L Lying HR: 93 
RR:
18 O2 sat: 94% O2 delivery: RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: Right lower extremity with chronic venous stasis
changes with erythema and warmth radiating up her right leg.
Markings made in ED show contained erythema. No purulent
drainage. Left lower extremity with chronic venous stasis
changes.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 24 HR Data (last updated ___ @ 459)
    Temp: 98.7 (Tm 98.7), BP: 113/76 (105-137/54-77), HR: 81
(78-111), RR: 18 (___), O2 sat: 93% (92-96), O2 delivery: RA  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: RRR
LUNGS: CTAB
ABDOMEN: NTND
EXTREMITIES: Right lower extremity with chronic venous stasis
changes with erythema and warmth radiating up her right leg.
Markings made in ED show erythema markedly reduced from prior. 
No
purulent drainage. Left lower extremity with chronic venous
stasis changes.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

 
Pertinent Results:
ADMISSION LABS:
============================
___ 10:50AM BLOOD WBC-7.6 RBC-4.53 Hgb-12.2 Hct-39.7 MCV-88 
MCH-26.9 MCHC-30.7* RDW-14.3 RDWSD-45.8 Plt ___
___ 10:50AM BLOOD Neuts-81.2* Lymphs-12.1* Monos-6.1 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-6.17* AbsLymp-0.92* 
AbsMono-0.46 AbsEos-0.01* AbsBaso-0.01
___ 10:50AM BLOOD Glucose-107* UreaN-12 Creat-0.7 Na-139 
K-4.6 Cl-102 HCO3-22 AnGap-15
___ 10:57AM BLOOD Lactate-1.1

DISCHARGE LABS:
==========================
___ 08:05 
COMPLETE BLOOD COUNT 
White Blood Cells 7.0 4.0 - 10.0 K/uL W 
Red Blood Cells 4.50 3.9 - 5.2 m/uL W 
Hemoglobin 11.9 11.2 - 15.7 g/dL W 
Hematocrit 39.3 34 - 45 % W 
MCV 87 82 - 98 fL W 
MCH 26.4 26 - 32 pg W 
MCHC 30.3* 32 - 37 g/dL W 
RDW 14.2 10.5 - 15.5 % W 
RDW-SD 45.6 35.1 - 46.3 fL W 
BASIC COAGULATION ___, PTT, PLT, INR) 
Platelet Count ___ K/uL 

___ 08:05 
Report Comment: 
Moderately Hemolyzed Specimen 
RENAL & GLUCOSE 
Glucose 132* 70 - 100 mg/dL W 
  If fasting, 70-100 normal, >125 provisional diabetes 
Urea Nitrogen ___ mg/dL W 
Creatinine 0.8 0.4 - 1.1 mg/dL W 
Sodium ___ mEq/L W 
Potassium 5.4 3.5 - 5.4 mEq/L W 
  Hemolysis falsely elevates this test 
Chloride ___ mEq/L W 
Bicarbonate 20* 22 - 32 mEq/L W 
Anion Gap ___ mEq/L W 
CHEMISTRY 
Calcium, Total 9.2 8.4 - 10.3 mg/dL W 
Phosphate 4.7* 2.7 - 4.5 mg/dL W 
Magnesium 2.1 1.6 - 2.6 mg/dL  

MICROBIOLOGY
=========================
___ 12:45 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 10:50 am BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING/STUDIES:
===============================
RLE ULTRASOUND ___:
IMPRESSION: 
No DVT within the right leg

CXR ___:
IMPRESSION: 
Large hiatal hernia, otherwise unremarkable.  No signs of 
pneumonia.
 
Brief Hospital Course:
___ is a ___ yo F with PMH HTN and venous insufficiency 
s/p radioablation of bilateral GSV ___ left, ___ right) who 
presented on ___ with 3 days of fever and chills, and 
worsening right leg warmth, tenderness, and erythema. Patient 
was started on IV vancomycin/ceftriaxone in the ED. Her 
cellulitis symptoms improved, and she was transitioned to PO 
Keflex/Bactrim prior to discharge. Patient was afebrile, 
hemodynamically stable, without a leukocytosis throughout her 
hospitalization. 

TRANSITIONAL ISSUES:
====================
[] Will need to continue cephalexin 500mg q 6 hours and Bactrim 
2 tabs BID for total 10 days (Start date ___, end date ___
[] Would monitor for recurrence of cellulitis after the 
completion of antibiotics 
[] CTM lytes while on ACEi and HCTZ
[] The patient did not require diuretics during this admission. 
Given her recurrent cellulitis, would likely expect some 
swelling as an outpatient 

ACUTE/ACTIVE ISSUES:
====================
# Cellulitis
Patient presented with right lower extremity erythema and pain 
after undergoing radiofrequency ablation of right GSV on ___ 
(she also underwent RFA of left FSV on ___. She also reported 
fevers and chills. LENIs in ED without evidence of DVT. She was 
also seen by the vascular team in the ED who recommended abx and 
no surgical intervention indicated. Patient was admitted to the 
medicine service for IV antibiotics (vancomycin/ceftriaxone). 
Her cellulitis symptoms significantly improved, and she was 
transitioned to PO Keflex/Bactrim on ___. Patient was afebrile, 
hemodynamically stable, without a leukocytosis throughout her 
hospitalization. Blood cultures were without growth. On day of 
discharge her cellulitis was markedly improved with resolving 
erythema and warmth. She will go home on cephalexin and Bactrim 
for total ___HRONIC/STABLE ISSUES:
======================
# Hypertension: BPs were low 100s-140s/ 50s-70s during 
admission. She was continued on her home lisinopril, HCTZ
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY:PRN swelling 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO QID 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*32 Capsule Refills:*0 
2.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice a day Disp #*32 Tablet Refills:*0 
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Lisinopril 10 mg PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  
6. HELD- Ferrous Sulfate 325 mg PO DAILY  This medication was 
held. Do not restart Ferrous Sulfate until you talk with your 
primary care doctor 
7. HELD- Furosemide 20 mg PO DAILY:PRN swelling  This medication 
was held. Do not restart Furosemide until you talk with your 
primary care doctor 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Cellulitis
#Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You were having fevers and chills. You also had worsening 
pain, redness, and warmth in your right leg. 

What did you receive in the hospital?
- You received antibiotics to treat a skin infection of your 
right leg. 

What should you do once you leave the hospital?
- Please take your medications as prescribed and go to your 
future appointments which are listed below.

We wish you all the ___!
- Your ___ Care Team
 
Followup Instructions:
___